US04810713
7-(3-Chloropropoxy)-2H-1-benzopyran-2-one
A mixture of 16.8 g (0.104 mole) of 7-hydroxycoumarin, 31.6 g (0.2 mole) of 1-bromo-3-chloropropane and 41.5 g (0.3 mole) of anhydrous potassium carbonate in 500 ml of acetone was heated at reflux for 24 hr. The mixture was filtered with difficulty to give a milky filtrate. The filtrate was treated wich charcoal and filtered through celite to give a clear filtrate. The filtrate was concentrated under reduced pressure to give a solid residue. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration, and dried to yield 19.1 g (77%) of fluffy, white solid. An analytical sample, m.p. 100°-102° C., was obtained on recrystallization from 2-propanol.

reactant | 7-hydroxycoumarin | 0.104 mole, 16.8 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 1-bromo-3-chloropropane | 0.2 mole, 31.6 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.3 mole, 41.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | 2-propanol | CC(C)O | C3H8O
product | 7-(3-Chloropropoxy)-2H-1-benzopyran-2-one | ClCCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C12H11ClO3
